US06414160B1
Under argon atmosphere, in 3 ml of methylene chloride was dissolved 102.6 mg (0.5 mmol) of 3-phenyl-4-methyl-5-methoxy-2(3H)oxazolone, and after the solution was cooled to −78° C., 53.1 mg (0.5 mmol) of benzaldehyde and 0.5 ml (0.05 mmol) of a methylene chloride solution containing 0.1 M-trimethylsilyl triflate were added to the solution and the mixture was reacted under stirring for 1.0 hour. After the temperature of the mixture was raised up to the room temperature, 15 ml of a saturated aqueous sodium hydrogen carbonate solution was added to the resulting reaction mixture and the mixture was extracted with 15 ml of methylene chloride. The organic layer was washed twice with 15 ml of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained concentrated residue was applied to silica gel column chromatography (eluent, hexane:ethyl acetate=10:1 (volume ratio)) to obtain 146.8 mg (0.47 mmol) of diastereomer mixture crude product of 3-phenyl-4-methyl-4-methoxycarbonyl-5-phenyl-2-oxazolidinone as pale yellowish liquid. A diastereomer ratio thereof was 72/28 according to 1H-NMR. Yield based on 3-phenyl-4-methyl-5-methoxy-2(3H)oxazolone was 94.3%.

reactant | 3-phenyl-4-methyl-5-methoxy-2(3H)oxazolone | 0.5 mmol, 102.6 mg | C1(=CC=CC=C1)N1C(OC(=C1C)OC)=O | C11H11NO3
reactant | benzaldehyde | 0.5 mmol, 53.1 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.05 mmol, 0.5 ml | C(Cl)Cl | CH2Cl2
product | 3-phenyl-4-methyl-4-methoxycarbonyl-5-phenyl-2-oxazolidinone | C1(=CC=CC=C1)N1C(OC(C1(C(=O)OC)C)C1=CC=CC=C1)=O | C18H17NO4
